US05276168
A. N-(Ethoxycarbonyl)-2-nitroaniline
To a solution of 2-nitroaniline (6.9 g, 50.0 mmol) in pyridine (6 mL) and dichloromethane (25 mL) at 0° C. under argon was added ethylchloroformate (7.3 mL, 75.0 mmol) through an addition funnel. After the addition was finished, the cooling bath was removed and the reaction mixture was allowed to stir at room temperature overnight. The reaction mixture was poured into 2N hydrochloric acid and extracted with ethyl acetate. The combined extracts were washed with water, saturated sodium bicarbonate solution and brine. After drying over anhydrous magnesium sulfate, the solvent was evaporated to yield the title A compound as a yellow solid (7.7 g). 1H NMR (CDCl3) δ 8.55 (d, J=8.0 Hz, 1 H), 8.2 (d, J=8.0 Hz, 1 H), 7.6 (t, J=8.0 Hz, 1 H), 7.1 (t, J=7.5 Hz, 1 H), 4.25 (q, J=6.0 Hz, 2 H), 1.3 (t, J=6.0 Hz, 3 H); 13C NMR (CDCl3) 153.0, 135.8, 135.4, 125.7, 122.1, 120.5, 63.6, 14.3 ppm.

reactant | 2-nitroaniline | 50.0 mmol, 6.9 g | [N+](=O)([O-])C1=C(N)C=CC=C1 | C6H6N2O2
reactant | ethylchloroformate | 75.0 mmol, 7.3 mL | C(C)OC(=O)Cl | C3H5ClO2
solvent | pyridine | 6 mL | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 25 mL | ClCCl | CH2Cl2
product | N-(Ethoxycarbonyl)-2-nitroaniline | 7.7 g | C(C)OC(=O)NC1=C(C=CC=C1)[N+](=O)[O-] | C9H10N2O4
